US08198453B2
Step 5. (S)-tert-butyl 2,2-dimethyl-4-(3-((R)-4-methyl-2-oxooxazolidin-3-yl)-3-oxopropyl)oxazolidine-3-carboxylate
A 2000 mL flask was charged with (S)-3-(3-(tert-butoxycarbonyl)-2,2-dimethyloxazolidin-4-yl)propanoic acid (21.6 g, 79 mmol) and 750 mL of dry THF. The solution was cooled to 0° C., then triethylamine (23.94 g, 237 mmol, 3.0 equiv) and pivaloyl chloride (9.76 mL, 79 mmol, 1.0 equiv) were sequentially added. The solution was stirred for 4 hr at 0° C. After this time (R)-4-benzyl-2-oxalozolidinone (13.26 g, 75.2 mmol, 0.95 equiv) and dried LiCl (3.68 g, 86.4 mmol, 1.1 equiv) were added and the reaction was allowed to stir for 13 hr with concomitant warming to ambient temperature. After this time 560 mL of 0.5 M HCl was added, the mixture was transferred to a separatory funnel and the layers were separated. The aqueous layer was extracted with EtOAc (3×370 mL), and the combined organic layers washed with 10% K2CO3 (2×370 mL), and brine (2×370 mL), then dried over Na2SO4, and evaporated. The crude material was purified by flash chromatography, eluting with 0-29% EtOAc in hexanes. This afforded 26.3 g (81%) of (S)-tert-butyl 2,2-dimethyl-4-(3-((R)-4-methyl-2-oxooxazolidin-3-yl)-3-oxopropyl)oxazolidine-3-carboxylate as a clear syrup.

reactant | (S)-3-(3-(tert-butoxycarbonyl)-2,2-dimethyloxazolidin-4-yl)propanoic acid | 79 mmol, 21.6 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCC(=O)O)(C)C | C13H23NO5
reactant | triethylamine | 237 mmol, 23.94 g, 3.0 equiv | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 79 mmol, 9.76 mL, 1.0 equiv | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | LiCl | 86.4 mmol, 3.68 g, 1.1 equiv | [Li+].[Cl-]
reactant | HCl | 0.5 M, 560 mL | Cl | ClH
reactant | THF | 750 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 2,2-dimethyl-4-(3-((R)-4-methyl-2-oxooxazolidin-3-yl)-3-oxopropyl)oxazolidine-3-carboxylate | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)CCC(=O)N1C(OC[C@H]1C)=O)C | C17H28N2O6
